US07074819B2
On the other hand, to a solution of 3-oxo-dec-9-enoic acid ethyl ester (4.32 g, 20.3 mmol) in THF (15 ml) at 0° C. was added potassium tert-butoxide (2.73 g, 24.3 mmol) This resulting mixture was stirred at room temperature under nitrogen for 30 min. The mixture of 4,4,5,5,5-pentafluoro-iodopentane was added and mixture was refluxed under nitrogen for 2 days, and then poured into H2O. The mixture was extracted with hexane. The organic layer was washed with saturated aqueous NaCl, dried over Na2SO4, filtered, concentrated, and purified by column chromatography (silica gel, 60% CHCl3/hexane) to afford 3-oxo-2-(4,4,5,5,5-pentafluoropentyl)-dec-9-enoic acid ethyl ester (4.46 g, 59%).

reactant | 3-oxo-dec-9-enoic acid ethyl ester | 20.3 mmol, 4.32 g | C(C)OC(CC(CCCCCC=C)=O)=O | C12H20O3
reactant | potassium tert-butoxide | 24.3 mmol, 2.73 g | CC(C)([O-])C.[K+]
reactant | 4,4,5,5,5-pentafluoro-iodopentane | FC(CCCI)(C(F)(F)F)F | C5H6F5I
reactant | H2O | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-oxo-2-(4,4,5,5,5-pentafluoropentyl)-dec-9-enoic acid ethyl ester | 4.46 g, 59% | C(C)OC(C(C(CCCCCC=C)=O)CCCC(C(F)(F)F)(F)F)=O | C17H25F5O3
